US20010029256A1
6,11-Dihydrodibenzo[b,e]thiepin-11-ol (1.14 g, 5 mmol) was dissolved in dry THF (25 mL) at 0° C. Sodium hydride (0.24 g of 50% mineral oil dispersion, 5 mmol) was added portionwise at 0° C. and then refluxed for 30 min. tert-Butylbromoacetate (980 mg, 5.0 mmol) in dry THF (10 mL) was added over a period of 20 min followed by a 30 min reflux. The reaction mixture was quenched with water at 0° C. and the product extracted with ether. The combined extracts were dried (MgSO4), and concentrated in vacuo. The product was redissolved in ether and added dropwise to an ether (15 mL) suspension of lithium aluminium hydride (190 mg, 5.0 mmol). The reaction was stirred 16 h at room temperature, quenched with water, cooled, and filtered through Decalit. The ether solution was washed with saturated NaCl, dried, and purified by chromatography eluting with ethyl acetate/dichloromethan (1:10) to give 850 mg (63%) of 2-(6,11-dihydrodibenzo[b,e]thiepin-11-yloxy)-ethanol. 1H NMR (300 MHz, CDCl3) δ3.55-3.70 (m, 2H), 3.75-3.85 (m, 2H), 4.00 (bs,1H), 4.85 (bs, 1H), 5.55 (bs, 1H), 7.03-7.13 (m, 3H), 7.13-7.48 (m, 5H).

reactant | 6,11-Dihydrodibenzo[b,e]thiepin-11-ol | 5 mmol, 1.14 g | C1=CC=CC=2SCC3=C(C(C21)O)C=CC=C3 | C14H12OS
reactant | Sodium hydride | 5 mmol, 0.24 g | [H-].[Na+]
reactant | tert-Butylbromoacetate | 5.0 mmol, 980 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | lithium aluminium hydride | 5.0 mmol, 190 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-(6,11-dihydrodibenzo[b,e]thiepin-11-yloxy)-ethanol | 850 mg, 63% | C1=CC=CC=2SCC3=C(C(C21)OCCO)C=CC=C3 | C16H16O2S
